US08022209B2
To a solution of 4-chloro-2-thiophen-2-yl-pyridine (195 mg, 0.55 mmol) in CH2Cl2 (2 mL) was added Br2 (1 M in CH2Cl2, 0.6 mL). After 6 h, the resulting mixture was treated with Na2S2O3 (1 M in water, 1 mL), stirred for 10 min, and extracted with CH2Cl2. The organic layer was dried and concentrated, and the resulting crude product was recrystallized from EtOH to yield 2-(5-bromo-thiophen-2-yl)-4-chloro-pyridine as a solid.

reactant | 4-chloro-2-thiophen-2-yl-pyridine | 0.55 mmol, 195 mg | ClC1=CC(=NC=C1)C=1SC=CC1 | C9H6ClNS
reactant | Br2 | 1 M, 0.6 mL | BrBr | Br2
reactant | Na2S2O3 | 1 M, 1 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-bromo-thiophen-2-yl)-4-chloro-pyridine | BrC1=CC=C(S1)C1=NC=CC(=C1)Cl | C9H5BrClNS
